US07501425B1
1-Methyl-7-[4-(pyrazol-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 200 mg (0.46 mmol) of 1-methyl-7-[4-(pyrazol-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one, trifluoroacetic acid and 309 mg (2.76 mmol) of potassium tert-butoxide in 15 mL of tetrahydrofuran. The reaction mixture is stirred overnight. After the workup, the semi-solid is triturated in diethyl ether, and the powder is collected and dried to give 102 mg (65%) of the title compound: mp>290° C. (dec).

reactant | 1-methyl-7-[4-(pyrazol-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.46 mmol, 200 mg | CN1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2N=CC=C2)=O | C16H15N7O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium tert-butoxide | 2.76 mmol, 309 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-Methyl-7-[4-(pyrazol-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one | 102 mg, 65% | CN1C(N=CC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2N=CC=C2)=O | C16H13N7O
